US09315475B2
Step 7: ((3S,6S)-6-((2-((S)-2-amino-3,3-bis(4-fluorophenyl)propanamido)-6-fluorophenoxy)methyl)morpholin-3-yl)methyl (2,2,2-trifluoroethyl)carbamate
4M HCl (922 μl, 3.69 mmol) in dioxane was added to a solution of tert-butyl (2S,5S)-2-[(2-{[N-(tert-butoxycarbonyl)-4-fluoro-β-(4-fluorophenyl)-L-phenylalanyl]amino}-6-fluorophenoxy)methyl]-5-[({[(2,2,2-trifluoroethyl)amino]carbonyl}oxy)methyl]morpholine-4-carboxylate (310 mg, 0.369 mmol) in Dioxane (3.69 ml) at room temperature and the reaction stirred until complete by LC/MS (8 hrs). The solvent was removed in vacuo and ether was added to the residue. The desired product was filtered off to afford the title compound (253 mg, 0.355 mmol, 96% yield) as a white solid, MS (ESI): m/z=641.4 (M+H); 100% pure by LC/MS.

reactant | HCl | 3.69 mmol, 4M, 922 μl | Cl | ClH
reactant | tert-butyl (2S,5S)-2-[(2-{[N-(tert-butoxycarbonyl)-4-fluoro-β-(4-fluorophenyl)-L-phenylalanyl]amino}-6-fluorophenoxy)methyl]-5-[({[(2,2,2-trifluoroethyl)amino]carbonyl}oxy)methyl]morpholine-4-carboxylate | 0.369 mmol, 310 mg | C(C)(C)(C)OC(=O)N[C@@H](C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C(=O)NC1=C(OC[C@@H]2CN([C@@H](CO2)COC(=O)NCC(F)(F)F)C(=O)OC(C)(C)C)C(=CC=C1)F | C40H46F6N4O9
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | Dioxane | 3.69 ml | O1CCOCC1 | C4H8O2
product | ((3S,6S)-6-((2-((S)-2-amino-3,3-bis(4-fluorophenyl)propanamido)-6-fluorophenoxy)methyl)morpholin-3-yl)methyl (2,2,2-trifluoroethyl)carbamate | 0.355 mmol, 253 mg, 96% yield | FC(CNC(OC[C@H]1NC[C@H](OC1)COC1=C(C=CC=C1F)NC([C@H](C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)N)=O)=O)(F)F | C30H30F6N4O5
